** sch_path:
*+ /foss/designs/SSC-pico-moc-tap/caravel_user_project_analog/xschem/user_analog_project_wrapper.sch
**.subckt user_analog_project_wrapper vdda1 vdda2 vssa1 vssa2 vccd1 vccd2 vssd1 vssd2 wb_clk_i
*+ wb_rst_i wbs_stb_i wbs_cyc_i wbs_we_i wbs_sel_i[3],wbs_sel_i[2],wbs_sel_i[1],wbs_sel_i[0]
*+ wbs_dat_i[31],wbs_dat_i[30],wbs_dat_i[29],wbs_dat_i[28],wbs_dat_i[27],wbs_dat_i[26],wbs_dat_i[25],wbs_dat_i[24],wbs_dat_i[23],wbs_dat_i[22],wbs_dat_i[21],wbs_dat_i[20],wbs_dat_i[19],wbs_dat_i[18],wbs_dat_i[17],wbs_dat_i[16],wbs_dat_i[15],wbs_dat_i[14],wbs_dat_i[13],wbs_dat_i[12],wbs_dat_i[11],wbs_dat_i[10],wbs_dat_i[9],wbs_dat_i[8],wbs_dat_i[7],wbs_dat_i[6],wbs_dat_i[5],wbs_dat_i[4],wbs_dat_i[3],wbs_dat_i[2],wbs_dat_i[1],wbs_dat_i[0]
*+ wbs_adr_i[31],wbs_adr_i[30],wbs_adr_i[29],wbs_adr_i[28],wbs_adr_i[27],wbs_adr_i[26],wbs_adr_i[25],wbs_adr_i[24],wbs_adr_i[23],wbs_adr_i[22],wbs_adr_i[21],wbs_adr_i[20],wbs_adr_i[19],wbs_adr_i[18],wbs_adr_i[17],wbs_adr_i[16],wbs_adr_i[15],wbs_adr_i[14],wbs_adr_i[13],wbs_adr_i[12],wbs_adr_i[11],wbs_adr_i[10],wbs_adr_i[9],wbs_adr_i[8],wbs_adr_i[7],wbs_adr_i[6],wbs_adr_i[5],wbs_adr_i[4],wbs_adr_i[3],wbs_adr_i[2],wbs_adr_i[1],wbs_adr_i[0] wbs_ack_o
*+ wbs_dat_o[31],wbs_dat_o[30],wbs_dat_o[29],wbs_dat_o[28],wbs_dat_o[27],wbs_dat_o[26],wbs_dat_o[25],wbs_dat_o[24],wbs_dat_o[23],wbs_dat_o[22],wbs_dat_o[21],wbs_dat_o[20],wbs_dat_o[19],wbs_dat_o[18],wbs_dat_o[17],wbs_dat_o[16],wbs_dat_o[15],wbs_dat_o[14],wbs_dat_o[13],wbs_dat_o[12],wbs_dat_o[11],wbs_dat_o[10],wbs_dat_o[9],wbs_dat_o[8],wbs_dat_o[7],wbs_dat_o[6],wbs_dat_o[5],wbs_dat_o[4],wbs_dat_o[3],wbs_dat_o[2],wbs_dat_o[1],wbs_dat_o[0]
*+ la_data_in[127],la_data_in[126],la_data_in[125],la_data_in[124],la_data_in[123],la_data_in[122],la_data_in[121],la_data_in[120],la_data_in[119],la_data_in[118],la_data_in[117],la_data_in[116],la_data_in[115],la_data_in[114],la_data_in[113],la_data_in[112],la_data_in[111],la_data_in[110],la_data_in[109],la_data_in[108],la_data_in[107],la_data_in[106],la_data_in[105],la_data_in[104],la_data_in[103],la_data_in[102],la_data_in[101],la_data_in[100],la_data_in[99],la_data_in[98],la_data_in[97],la_data_in[96],la_data_in[95],la_data_in[94],la_data_in[93],la_data_in[92],la_data_in[91],la_data_in[90],la_data_in[89],la_data_in[88],la_data_in[87],la_data_in[86],la_data_in[85],la_data_in[84],la_data_in[83],la_data_in[82],la_data_in[81],la_data_in[80],la_data_in[79],la_data_in[78],la_data_in[77],la_data_in[76],la_data_in[75],la_data_in[74],la_data_in[73],la_data_in[72],la_data_in[71],la_data_in[70],la_data_in[69],la_data_in[68],la_data_in[67],la_data_in[66],la_data_in[65],la_data_in[64],la_data_in[63],la_data_in[62],la_data_in[61],la_data_in[60],la_data_in[59],la_data_in[58],la_data_in[57],la_data_in[56],la_data_in[55],la_data_in[54],la_data_in[53],la_data_in[52],la_data_in[51],la_data_in[50],la_data_in[49],la_data_in[48],la_data_in[47],la_data_in[46],la_data_in[45],la_data_in[44],la_data_in[43],la_data_in[42],la_data_in[41],la_data_in[40],la_data_in[39],la_data_in[38],la_data_in[37],la_data_in[36],la_data_in[35],la_data_in[34],la_data_in[33],la_data_in[32],la_data_in[31],la_data_in[30],la_data_in[29],la_data_in[28],la_data_in[27],la_data_in[26],la_data_in[25],la_data_in[24],la_data_in[23],la_data_in[22],la_data_in[21],la_data_in[20],la_data_in[19],la_data_in[18],la_data_in[17],la_data_in[16],la_data_in[15],la_data_in[14],la_data_in[13],la_data_in[12],la_data_in[11],la_data_in[10],la_data_in[9],la_data_in[8],la_data_in[7],la_data_in[6],la_data_in[5],la_data_in[4],la_data_in[3],la_data_in[2],la_data_in[1],la_data_in[0]
*+ la_data_out[127],la_data_out[126],la_data_out[125],la_data_out[124],la_data_out[123],la_data_out[122],la_data_out[121],la_data_out[120],la_data_out[119],la_data_out[118],la_data_out[117],la_data_out[116],la_data_out[115],la_data_out[114],la_data_out[113],la_data_out[112],la_data_out[111],la_data_out[110],la_data_out[109],la_data_out[108],la_data_out[107],la_data_out[106],la_data_out[105],la_data_out[104],la_data_out[103],la_data_out[102],la_data_out[101],la_data_out[100],la_data_out[99],la_data_out[98],la_data_out[97],la_data_out[96],la_data_out[95],la_data_out[94],la_data_out[93],la_data_out[92],la_data_out[91],la_data_out[90],la_data_out[89],la_data_out[88],la_data_out[87],la_data_out[86],la_data_out[85],la_data_out[84],la_data_out[83],la_data_out[82],la_data_out[81],la_data_out[80],la_data_out[79],la_data_out[78],la_data_out[77],la_data_out[76],la_data_out[75],la_data_out[74],la_data_out[73],la_data_out[72],la_data_out[71],la_data_out[70],la_data_out[69],la_data_out[68],la_data_out[67],la_data_out[66],la_data_out[65],la_data_out[64],la_data_out[63],la_data_out[62],la_data_out[61],la_data_out[60],la_data_out[59],la_data_out[58],la_data_out[57],la_data_out[56],la_data_out[55],la_data_out[54],la_data_out[53],la_data_out[52],la_data_out[51],la_data_out[50],la_data_out[49],la_data_out[48],la_data_out[47],la_data_out[46],la_data_out[45],la_data_out[44],la_data_out[43],la_data_out[42],la_data_out[41],la_data_out[40],la_data_out[39],la_data_out[38],la_data_out[37],la_data_out[36],la_data_out[35],la_data_out[34],la_data_out[33],la_data_out[32],la_data_out[31],la_data_out[30],la_data_out[29],la_data_out[28],la_data_out[27],la_data_out[26],la_data_out[25],la_data_out[24],la_data_out[23],la_data_out[22],la_data_out[21],la_data_out[20],la_data_out[19],la_data_out[18],la_data_out[17],la_data_out[16],la_data_out[15],la_data_out[14],la_data_out[13],la_data_out[12],la_data_out[11],la_data_out[10],la_data_out[9],la_data_out[8],la_data_out[7],la_data_out[6],la_data_out[5],la_data_out[4],la_data_out[3],la_data_out[2],la_data_out[1],la_data_out[0]
*+ io_in[26],io_in[25],io_in[24],io_in[23],io_in[22],io_in[21],io_in[20],io_in[19],io_in[18],io_in[17],io_in[16],io_in[15],io_in[14],io_in[13],io_in[12],io_in[11],io_in[10],io_in[9],io_in[8],io_in[7],io_in[6],io_in[5],io_in[4],io_in[3],io_in[2],io_in[1],io_in[0]
*+ io_in_3v3[26],io_in_3v3[25],io_in_3v3[24],io_in_3v3[23],io_in_3v3[22],io_in_3v3[21],io_in_3v3[20],io_in_3v3[19],io_in_3v3[18],io_in_3v3[17],io_in_3v3[16],io_in_3v3[15],io_in_3v3[14],io_in_3v3[13],io_in_3v3[12],io_in_3v3[11],io_in_3v3[10],io_in_3v3[9],io_in_3v3[8],io_in_3v3[7],io_in_3v3[6],io_in_3v3[5],io_in_3v3[4],io_in_3v3[3],io_in_3v3[2],io_in_3v3[1],io_in_3v3[0] user_clock2
*+ io_out[26],io_out[25],io_out[24],io_out[23],io_out[22],io_out[21],io_out[20],io_out[19],io_out[18],io_out[17],io_out[16],io_out[15],io_out[14],io_out[13],io_out[12],io_out[11],io_out[10],io_out[9],io_out[8],io_out[7],io_out[6],io_out[5],io_out[4],io_out[3],io_out[2],io_out[1],io_out[0]
*+ io_oeb[26],io_oeb[25],io_oeb[24],io_oeb[23],io_oeb[22],io_oeb[21],io_oeb[20],io_oeb[19],io_oeb[18],io_oeb[17],io_oeb[16],io_oeb[15],io_oeb[14],io_oeb[13],io_oeb[12],io_oeb[11],io_oeb[10],io_oeb[9],io_oeb[8],io_oeb[7],io_oeb[6],io_oeb[5],io_oeb[4],io_oeb[3],io_oeb[2],io_oeb[1],io_oeb[0]
*+ gpio_analog[17],gpio_analog[16],gpio_analog[15],gpio_analog[14],gpio_analog[13],gpio_analog[12],gpio_analog[11],gpio_analog[10],gpio_analog[9],gpio_analog[8],gpio_analog[7],gpio_analog[6],gpio_analog[5],gpio_analog[4],gpio_analog[3],gpio_analog[2],gpio_analog[1],gpio_analog[0]
*+ gpio_noesd[17],gpio_noesd[16],gpio_noesd[15],gpio_noesd[14],gpio_noesd[13],gpio_noesd[12],gpio_noesd[11],gpio_noesd[10],gpio_noesd[9],gpio_noesd[8],gpio_noesd[7],gpio_noesd[6],gpio_noesd[5],gpio_noesd[4],gpio_noesd[3],gpio_noesd[2],gpio_noesd[1],gpio_noesd[0]
*+ io_analog[10],io_analog[9],io_analog[8],io_analog[7],io_analog[6],io_analog[5],io_analog[4],io_analog[3],io_analog[2],io_analog[1],io_analog[0] io_clamp_high[2],io_clamp_high[1],io_clamp_high[0] io_clamp_low[2],io_clamp_low[1],io_clamp_low[0]
*+ user_irq[2],user_irq[1],user_irq[0]
*+ la_oenb[127],la_oenb[126],la_oenb[125],la_oenb[124],la_oenb[123],la_oenb[122],la_oenb[121],la_oenb[120],la_oenb[119],la_oenb[118],la_oenb[117],la_oenb[116],la_oenb[115],la_oenb[114],la_oenb[113],la_oenb[112],la_oenb[111],la_oenb[110],la_oenb[109],la_oenb[108],la_oenb[107],la_oenb[106],la_oenb[105],la_oenb[104],la_oenb[103],la_oenb[102],la_oenb[101],la_oenb[100],la_oenb[99],la_oenb[98],la_oenb[97],la_oenb[96],la_oenb[95],la_oenb[94],la_oenb[93],la_oenb[92],la_oenb[91],la_oenb[90],la_oenb[89],la_oenb[88],la_oenb[87],la_oenb[86],la_oenb[85],la_oenb[84],la_oenb[83],la_oenb[82],la_oenb[81],la_oenb[80],la_oenb[79],la_oenb[78],la_oenb[77],la_oenb[76],la_oenb[75],la_oenb[74],la_oenb[73],la_oenb[72],la_oenb[71],la_oenb[70],la_oenb[69],la_oenb[68],la_oenb[67],la_oenb[66],la_oenb[65],la_oenb[64],la_oenb[63],la_oenb[62],la_oenb[61],la_oenb[60],la_oenb[59],la_oenb[58],la_oenb[57],la_oenb[56],la_oenb[55],la_oenb[54],la_oenb[53],la_oenb[52],la_oenb[51],la_oenb[50],la_oenb[49],la_oenb[48],la_oenb[47],la_oenb[46],la_oenb[45],la_oenb[44],la_oenb[43],la_oenb[42],la_oenb[41],la_oenb[40],la_oenb[39],la_oenb[38],la_oenb[37],la_oenb[36],la_oenb[35],la_oenb[34],la_oenb[33],la_oenb[32],la_oenb[31],la_oenb[30],la_oenb[29],la_oenb[28],la_oenb[27],la_oenb[26],la_oenb[25],la_oenb[24],la_oenb[23],la_oenb[22],la_oenb[21],la_oenb[20],la_oenb[19],la_oenb[18],la_oenb[17],la_oenb[16],la_oenb[15],la_oenb[14],la_oenb[13],la_oenb[12],la_oenb[11],la_oenb[10],la_oenb[9],la_oenb[8],la_oenb[7],la_oenb[6],la_oenb[5],la_oenb[4],la_oenb[3],la_oenb[2],la_oenb[1],la_oenb[0]
*.iopin vdda1
*.iopin vdda2
*.iopin vssa1
*.iopin vssa2
*.iopin vccd1
*.iopin vccd2
*.iopin vssd1
*.iopin vssd2
*.ipin wb_clk_i
*.ipin wb_rst_i
*.ipin wbs_stb_i
*.ipin wbs_cyc_i
*.ipin wbs_we_i
*.ipin wbs_sel_i[3],wbs_sel_i[2],wbs_sel_i[1],wbs_sel_i[0]
*.ipin
*+ wbs_dat_i[31],wbs_dat_i[30],wbs_dat_i[29],wbs_dat_i[28],wbs_dat_i[27],wbs_dat_i[26],wbs_dat_i[25],wbs_dat_i[24],wbs_dat_i[23],wbs_dat_i[22],wbs_dat_i[21],wbs_dat_i[20],wbs_dat_i[19],wbs_dat_i[18],wbs_dat_i[17],wbs_dat_i[16],wbs_dat_i[15],wbs_dat_i[14],wbs_dat_i[13],wbs_dat_i[12],wbs_dat_i[11],wbs_dat_i[10],wbs_dat_i[9],wbs_dat_i[8],wbs_dat_i[7],wbs_dat_i[6],wbs_dat_i[5],wbs_dat_i[4],wbs_dat_i[3],wbs_dat_i[2],wbs_dat_i[1],wbs_dat_i[0]
*.ipin
*+ wbs_adr_i[31],wbs_adr_i[30],wbs_adr_i[29],wbs_adr_i[28],wbs_adr_i[27],wbs_adr_i[26],wbs_adr_i[25],wbs_adr_i[24],wbs_adr_i[23],wbs_adr_i[22],wbs_adr_i[21],wbs_adr_i[20],wbs_adr_i[19],wbs_adr_i[18],wbs_adr_i[17],wbs_adr_i[16],wbs_adr_i[15],wbs_adr_i[14],wbs_adr_i[13],wbs_adr_i[12],wbs_adr_i[11],wbs_adr_i[10],wbs_adr_i[9],wbs_adr_i[8],wbs_adr_i[7],wbs_adr_i[6],wbs_adr_i[5],wbs_adr_i[4],wbs_adr_i[3],wbs_adr_i[2],wbs_adr_i[1],wbs_adr_i[0]
*.opin wbs_ack_o
*.opin
*+ wbs_dat_o[31],wbs_dat_o[30],wbs_dat_o[29],wbs_dat_o[28],wbs_dat_o[27],wbs_dat_o[26],wbs_dat_o[25],wbs_dat_o[24],wbs_dat_o[23],wbs_dat_o[22],wbs_dat_o[21],wbs_dat_o[20],wbs_dat_o[19],wbs_dat_o[18],wbs_dat_o[17],wbs_dat_o[16],wbs_dat_o[15],wbs_dat_o[14],wbs_dat_o[13],wbs_dat_o[12],wbs_dat_o[11],wbs_dat_o[10],wbs_dat_o[9],wbs_dat_o[8],wbs_dat_o[7],wbs_dat_o[6],wbs_dat_o[5],wbs_dat_o[4],wbs_dat_o[3],wbs_dat_o[2],wbs_dat_o[1],wbs_dat_o[0]
*.ipin
*+ la_data_in[127],la_data_in[126],la_data_in[125],la_data_in[124],la_data_in[123],la_data_in[122],la_data_in[121],la_data_in[120],la_data_in[119],la_data_in[118],la_data_in[117],la_data_in[116],la_data_in[115],la_data_in[114],la_data_in[113],la_data_in[112],la_data_in[111],la_data_in[110],la_data_in[109],la_data_in[108],la_data_in[107],la_data_in[106],la_data_in[105],la_data_in[104],la_data_in[103],la_data_in[102],la_data_in[101],la_data_in[100],la_data_in[99],la_data_in[98],la_data_in[97],la_data_in[96],la_data_in[95],la_data_in[94],la_data_in[93],la_data_in[92],la_data_in[91],la_data_in[90],la_data_in[89],la_data_in[88],la_data_in[87],la_data_in[86],la_data_in[85],la_data_in[84],la_data_in[83],la_data_in[82],la_data_in[81],la_data_in[80],la_data_in[79],la_data_in[78],la_data_in[77],la_data_in[76],la_data_in[75],la_data_in[74],la_data_in[73],la_data_in[72],la_data_in[71],la_data_in[70],la_data_in[69],la_data_in[68],la_data_in[67],la_data_in[66],la_data_in[65],la_data_in[64],la_data_in[63],la_data_in[62],la_data_in[61],la_data_in[60],la_data_in[59],la_data_in[58],la_data_in[57],la_data_in[56],la_data_in[55],la_data_in[54],la_data_in[53],la_data_in[52],la_data_in[51],la_data_in[50],la_data_in[49],la_data_in[48],la_data_in[47],la_data_in[46],la_data_in[45],la_data_in[44],la_data_in[43],la_data_in[42],la_data_in[41],la_data_in[40],la_data_in[39],la_data_in[38],la_data_in[37],la_data_in[36],la_data_in[35],la_data_in[34],la_data_in[33],la_data_in[32],la_data_in[31],la_data_in[30],la_data_in[29],la_data_in[28],la_data_in[27],la_data_in[26],la_data_in[25],la_data_in[24],la_data_in[23],la_data_in[22],la_data_in[21],la_data_in[20],la_data_in[19],la_data_in[18],la_data_in[17],la_data_in[16],la_data_in[15],la_data_in[14],la_data_in[13],la_data_in[12],la_data_in[11],la_data_in[10],la_data_in[9],la_data_in[8],la_data_in[7],la_data_in[6],la_data_in[5],la_data_in[4],la_data_in[3],la_data_in[2],la_data_in[1],la_data_in[0]
*.opin
*+ la_data_out[127],la_data_out[126],la_data_out[125],la_data_out[124],la_data_out[123],la_data_out[122],la_data_out[121],la_data_out[120],la_data_out[119],la_data_out[118],la_data_out[117],la_data_out[116],la_data_out[115],la_data_out[114],la_data_out[113],la_data_out[112],la_data_out[111],la_data_out[110],la_data_out[109],la_data_out[108],la_data_out[107],la_data_out[106],la_data_out[105],la_data_out[104],la_data_out[103],la_data_out[102],la_data_out[101],la_data_out[100],la_data_out[99],la_data_out[98],la_data_out[97],la_data_out[96],la_data_out[95],la_data_out[94],la_data_out[93],la_data_out[92],la_data_out[91],la_data_out[90],la_data_out[89],la_data_out[88],la_data_out[87],la_data_out[86],la_data_out[85],la_data_out[84],la_data_out[83],la_data_out[82],la_data_out[81],la_data_out[80],la_data_out[79],la_data_out[78],la_data_out[77],la_data_out[76],la_data_out[75],la_data_out[74],la_data_out[73],la_data_out[72],la_data_out[71],la_data_out[70],la_data_out[69],la_data_out[68],la_data_out[67],la_data_out[66],la_data_out[65],la_data_out[64],la_data_out[63],la_data_out[62],la_data_out[61],la_data_out[60],la_data_out[59],la_data_out[58],la_data_out[57],la_data_out[56],la_data_out[55],la_data_out[54],la_data_out[53],la_data_out[52],la_data_out[51],la_data_out[50],la_data_out[49],la_data_out[48],la_data_out[47],la_data_out[46],la_data_out[45],la_data_out[44],la_data_out[43],la_data_out[42],la_data_out[41],la_data_out[40],la_data_out[39],la_data_out[38],la_data_out[37],la_data_out[36],la_data_out[35],la_data_out[34],la_data_out[33],la_data_out[32],la_data_out[31],la_data_out[30],la_data_out[29],la_data_out[28],la_data_out[27],la_data_out[26],la_data_out[25],la_data_out[24],la_data_out[23],la_data_out[22],la_data_out[21],la_data_out[20],la_data_out[19],la_data_out[18],la_data_out[17],la_data_out[16],la_data_out[15],la_data_out[14],la_data_out[13],la_data_out[12],la_data_out[11],la_data_out[10],la_data_out[9],la_data_out[8],la_data_out[7],la_data_out[6],la_data_out[5],la_data_out[4],la_data_out[3],la_data_out[2],la_data_out[1],la_data_out[0]
*.ipin
*+ io_in[26],io_in[25],io_in[24],io_in[23],io_in[22],io_in[21],io_in[20],io_in[19],io_in[18],io_in[17],io_in[16],io_in[15],io_in[14],io_in[13],io_in[12],io_in[11],io_in[10],io_in[9],io_in[8],io_in[7],io_in[6],io_in[5],io_in[4],io_in[3],io_in[2],io_in[1],io_in[0]
*.ipin
*+ io_in_3v3[26],io_in_3v3[25],io_in_3v3[24],io_in_3v3[23],io_in_3v3[22],io_in_3v3[21],io_in_3v3[20],io_in_3v3[19],io_in_3v3[18],io_in_3v3[17],io_in_3v3[16],io_in_3v3[15],io_in_3v3[14],io_in_3v3[13],io_in_3v3[12],io_in_3v3[11],io_in_3v3[10],io_in_3v3[9],io_in_3v3[8],io_in_3v3[7],io_in_3v3[6],io_in_3v3[5],io_in_3v3[4],io_in_3v3[3],io_in_3v3[2],io_in_3v3[1],io_in_3v3[0]
*.ipin user_clock2
*.opin
*+ io_out[26],io_out[25],io_out[24],io_out[23],io_out[22],io_out[21],io_out[20],io_out[19],io_out[18],io_out[17],io_out[16],io_out[15],io_out[14],io_out[13],io_out[12],io_out[11],io_out[10],io_out[9],io_out[8],io_out[7],io_out[6],io_out[5],io_out[4],io_out[3],io_out[2],io_out[1],io_out[0]
*.opin
*+ io_oeb[26],io_oeb[25],io_oeb[24],io_oeb[23],io_oeb[22],io_oeb[21],io_oeb[20],io_oeb[19],io_oeb[18],io_oeb[17],io_oeb[16],io_oeb[15],io_oeb[14],io_oeb[13],io_oeb[12],io_oeb[11],io_oeb[10],io_oeb[9],io_oeb[8],io_oeb[7],io_oeb[6],io_oeb[5],io_oeb[4],io_oeb[3],io_oeb[2],io_oeb[1],io_oeb[0]
*.iopin
*+ gpio_analog[17],gpio_analog[16],gpio_analog[15],gpio_analog[14],gpio_analog[13],gpio_analog[12],gpio_analog[11],gpio_analog[10],gpio_analog[9],gpio_analog[8],gpio_analog[7],gpio_analog[6],gpio_analog[5],gpio_analog[4],gpio_analog[3],gpio_analog[2],gpio_analog[1],gpio_analog[0]
*.iopin
*+ gpio_noesd[17],gpio_noesd[16],gpio_noesd[15],gpio_noesd[14],gpio_noesd[13],gpio_noesd[12],gpio_noesd[11],gpio_noesd[10],gpio_noesd[9],gpio_noesd[8],gpio_noesd[7],gpio_noesd[6],gpio_noesd[5],gpio_noesd[4],gpio_noesd[3],gpio_noesd[2],gpio_noesd[1],gpio_noesd[0]
*.iopin
*+ io_analog[10],io_analog[9],io_analog[8],io_analog[7],io_analog[6],io_analog[5],io_analog[4],io_analog[3],io_analog[2],io_analog[1],io_analog[0]
*.iopin io_clamp_high[2],io_clamp_high[1],io_clamp_high[0]
*.iopin io_clamp_low[2],io_clamp_low[1],io_clamp_low[0]
*.opin user_irq[2],user_irq[1],user_irq[0]
*.ipin
*+ la_oenb[127],la_oenb[126],la_oenb[125],la_oenb[124],la_oenb[123],la_oenb[122],la_oenb[121],la_oenb[120],la_oenb[119],la_oenb[118],la_oenb[117],la_oenb[116],la_oenb[115],la_oenb[114],la_oenb[113],la_oenb[112],la_oenb[111],la_oenb[110],la_oenb[109],la_oenb[108],la_oenb[107],la_oenb[106],la_oenb[105],la_oenb[104],la_oenb[103],la_oenb[102],la_oenb[101],la_oenb[100],la_oenb[99],la_oenb[98],la_oenb[97],la_oenb[96],la_oenb[95],la_oenb[94],la_oenb[93],la_oenb[92],la_oenb[91],la_oenb[90],la_oenb[89],la_oenb[88],la_oenb[87],la_oenb[86],la_oenb[85],la_oenb[84],la_oenb[83],la_oenb[82],la_oenb[81],la_oenb[80],la_oenb[79],la_oenb[78],la_oenb[77],la_oenb[76],la_oenb[75],la_oenb[74],la_oenb[73],la_oenb[72],la_oenb[71],la_oenb[70],la_oenb[69],la_oenb[68],la_oenb[67],la_oenb[66],la_oenb[65],la_oenb[64],la_oenb[63],la_oenb[62],la_oenb[61],la_oenb[60],la_oenb[59],la_oenb[58],la_oenb[57],la_oenb[56],la_oenb[55],la_oenb[54],la_oenb[53],la_oenb[52],la_oenb[51],la_oenb[50],la_oenb[49],la_oenb[48],la_oenb[47],la_oenb[46],la_oenb[45],la_oenb[44],la_oenb[43],la_oenb[42],la_oenb[41],la_oenb[40],la_oenb[39],la_oenb[38],la_oenb[37],la_oenb[36],la_oenb[35],la_oenb[34],la_oenb[33],la_oenb[32],la_oenb[31],la_oenb[30],la_oenb[29],la_oenb[28],la_oenb[27],la_oenb[26],la_oenb[25],la_oenb[24],la_oenb[23],la_oenb[22],la_oenb[21],la_oenb[20],la_oenb[19],la_oenb[18],la_oenb[17],la_oenb[16],la_oenb[15],la_oenb[14],la_oenb[13],la_oenb[12],la_oenb[11],la_oenb[10],la_oenb[9],la_oenb[8],la_oenb[7],la_oenb[6],la_oenb[5],la_oenb[4],la_oenb[3],la_oenb[2],la_oenb[1],la_oenb[0]
x1 gpio_analog[0] io_analog[0] io_analog[1] gpio_analog[1] io_analog[2] gpio_analog[2] vdda1
+ io_analog[3] gpio_analog[3] gpio_analog[4] io_analog[4] io_analog[5] gpio_analog[5] vccd1 io_analog[6]
+ gpio_analog[6] io_analog[7] gpio_analog[7] io_analog[8] io_analog[9] gpio_analog[8] gpio_analog[9] dummy_inv1
**.ends

* expanding   symbol:  /foss/designs/caravel_pico/p_d/xschem/dummy_inv1.sym # of pins=22
** sym_path: /foss/designs/caravel_pico/p_d/xschem/dummy_inv1.sym
** sch_path: /foss/designs/caravel_pico/p_d/xschem/dummy_inv1.sch
.subckt dummy_inv1  Y0 I0 I1 Y1 I2 Y2 VP I3 Y3 Y4 I4 I5 Y5 VN I6 Y6 I7 Y7 I8 I9 Y8 Y9
*.iopin Y0
*.iopin Y1
*.iopin Y2
*.iopin Y3
*.iopin Y4
*.iopin Y5
*.iopin Y6
*.iopin Y7
*.iopin Y8
*.iopin VP
*.iopin VN
*.iopin I9
*.iopin I8
*.iopin I7
*.iopin I6
*.iopin I5
*.iopin I4
*.iopin I3
*.iopin I2
*.iopin I1
*.iopin I0
*.iopin Y9
XM1 Y4 I4 VN VN sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM2 Y4 I4 VP VP sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
R1 I0 I1 10 m=1
R2 I1 I2 10 m=1
R3 I2 I3 1k m=1
R4 I3 I4 10 m=1
R5 I4 I5 10 m=1
R6 I5 I6 10 m=1
R7 I6 I7 10 m=1
R8 I7 I8 10 m=1
R9 I8 I9 10 m=1
R10 Y0 Y1 10 m=1
R11 Y1 Y2 10 m=1
R12 Y2 Y3 10 m=1
R13 Y3 Y4 10 m=1
R14 Y4 Y5 10 m=1
R15 Y5 Y6 10 m=1
R16 Y6 Y7 10 m=1
R17 Y7 Y8 10 m=1
R18 Y8 Y9 10 m=1
.ends

.end
